US07307095B2
A slurry of L-cyclohexylalanine (2.44 g, 14.3 mmol) and powdered NaOH (1.14 g, 28.6 mmol) in DMSO (20 mL) was heated to 100° C. for 20 min until the mixture viscosity decreased and stirring was enabled. 2-Chlorobenzoxazole (1.99 g, 13.0 mmol) was added, and the solution was stirred at 100° C. for 4 h. Upon cooling to room temperature, the solution was poured into 1 M HCl. The precipitate was filtered and dried to afford 2-(S)-(benzooxazol-2-ylamino)-3-cyclohexyl propionic acid was isolated as a white powder (1.69 g, 41%).

reactant | L-cyclohexylalanine | 14.3 mmol, 2.44 g | C1CCC(CC1)C[C@@H](C(=O)O)N | C9H17NO2
reactant | NaOH | 28.6 mmol, 1.14 g | [OH-].[Na+]
reactant | 2-Chlorobenzoxazole | 13.0 mmol, 1.99 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | HCl | 1 M | Cl | ClH
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 2-(S)-(benzooxazol-2-ylamino)-3-cyclohexyl propionic acid | O1C(=NC2=C1C=CC=C2)N[C@H](C(=O)O)CC2CCCCC2 | C16H20N2O3
